US09415581B2
LA: lauryl acrylate
Glutaric acid (10 parts), diethylene glycol (10 parts), Acetylenol E100 (surfactant produced by Kawaken Fine Chemicals Co., Ltd.) (1 part), and ion exchange water (79 parts) were mixed and thoroughly stirred. Then the mixture was pressure-filtered through a microfilter (produced by FUJIFILM Holdings Corporation) with a 3.0 μm pore size. As a result, a liquid composition was obtained.

reactant | Glutaric acid | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | diethylene glycol | C(COCCO)O | C4H10O3
reactant | Acetylenol E100 | C(#C)O.COC=1C=C(C=CC1O)/C=C/C(=C/C(=O)/C=C/C=2C=CC(=C(C2)OC)O)/O
solvent | water | O | H2O
product | lauryl acrylate | C(C=C)(=O)OCCCCCCCCCCCC | C15H28O2
